US06335451B1
b) 1-[3-(4-Bromobenzyl)-5-chloro-2-phenyl-3H-imidazol-4-yl]ethanol
3.8 g of 3-(4-bromobenzyl)-5-chloro-2-phenyl-3H-imidazole-4-carbaldehyde are dissolved in 50 ml of THF and a Grignard solution, prepared from 385 mg of magnesium turnings and 990 μl of methyl iodide in 50 ml of diethyl ether, is slowly added by syringe at RT. The mixture is stirred at RT for 3 days, then 200 ml of a 5% aqueous NaHSO4 solution are added und the mixture is extracted twice using 200 ml of EA each time. The extract is dried over Na2SO4 and the solvent is removed in vacuo. 3.7 g of a colorless oil are obtained.

reactant | 3-(4-bromobenzyl)-5-chloro-2-phenyl-3H-imidazole-4-carbaldehyde | 3.8 g | BrC1=CC=C(CN2C(=NC(=C2C=O)Cl)C2=CC=CC=C2)C=C1 | C17H12BrClN2O
reactant | magnesium | 385 mg | [Mg] | Mg
reactant | methyl iodide | 990 μl | CI | CH3I
reactant | NaHSO4 | OS(=O)(=O)[O-].[Na+]
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | 1-[3-(4-Bromobenzyl)-5-chloro-2-phenyl-3H-imidazol-4-yl]ethanol | 3.7 g | BrC1=CC=C(CN2C(=NC(=C2C(C)O)Cl)C2=CC=CC=C2)C=C1 | C18H16BrClN2O
